US09290451B2
d) 6-Bromo-5-methyl-pyridine-2-carboxylic acid
6-Bromo-5-methyl-pyridine-2-carbonitrile (1.0 g, 5.0 mmol) was added to a solution of sodium hydroxide (0.3 g, 7 mmol) in water (20 mL), the mixture was stirred at 120° C. overnight. Subsequently, the mixture was adjusted to pH=3 and extracted with ethyl acetate (2×15 mL). The organic extracts were washed with brine, dried over anhydrous sodium sulfate and concentrated to give the product (0.7 g, 63.8%); MS (EI): m/e 216.0 [M+H]+.

reactant | 6-Bromo-5-methyl-pyridine-2-carbonitrile | 5.0 mmol, 1.0 g | BrC1=C(C=CC(=N1)C#N)C | C7H5BrN2
reactant | sodium hydroxide | 7 mmol, 0.3 g | [OH-].[Na+]
reactant | water | 20 mL | O | H2O
product | 6-Bromo-5-methyl-pyridine-2-carboxylic acid | 0.7 g, 63.8% | BrC1=C(C=CC(=N1)C(=O)O)C | C7H6BrNO2
